US06800640B2
A solution of 3-nitropyridine in THF at −78° C. is treated with vinyl magnesium bromide (3 eq), stirred at −20° C. for 8 h and quenched with 20% ammonium chloride. The phases are separated and the aqueous phase is extracted with EtOAc. The organic phase and the combined extracts are mixed together, dried over MgSO4 and concentrated in vacuo. The resultant residue is chromatographed over silica gel to afford the title 6-azaindole.

reactant | 3-nitropyridine | [N+](=O)([O-])C=1C=NC=CC1 | C5H4N2O2
reactant | vinyl magnesium bromide | 3 eq | C(=C)[Mg]Br
solvent | THF | C1CCOC1 | C4H8O
product | 6-azaindole | N1C=CC2=CC=NC=C12 | C7H6N2
